US06114332
Similar reaction of 2-iodoisophthalic acid and 4-isopropylaniline gave 2-[(4-isopropyl)phenylamino]isophthalic acid (62%), mp (EtOAc/petroleum ether) 208° C. (dec). 1H NMR [(CD3)2SO] δ 1.16 (d, J=6.9 Hz, 6 H, 2×CH3), 2.78-2.82 (m, 1 H, CH), 6.83 (d, J=8.4 Hz, 2 H, H-2' and H-6' or H-3' and H-5'; 6.97 (t, J=7.7 Hz, 1 H, H-5), 7.07 (d, J=8.5 Hz, 2 H, H-3' and H-5' or H-2' and H-6'), 7.92 (d, J=7.7 Hz, 2 H, H-4 and H-6), 9.66 (br s, 1 H, NH), 12.89 (br s, 2 H, 2×COOH). Anal. (C17H17NO4) C, H, N.

reactant | 2-iodoisophthalic acid | IC1=C(C(=O)O)C=CC=C1C(=O)O | C8H5IO4
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | 2-[(4-isopropyl)phenylamino]isophthalic acid | 62% | C(C)(C)C1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1C(=O)O | C17H17NO4
